US04324741
2.0 ml of methylene chloride, 0.06 ml (0.68 mmol) of 2-mercaptopropionic acid and 140 mg (0.68 mmol) of 2,6-di-tert-butyl-4-methylpyridine were charged in a flask, and 320 mg (0.68 mmol) of pentafluoroethylphenyliodonium trifluoromethanesulfonate was added thereto in small portions while stirring at room temperature, followed by stirring the mixture at room temperature for 20 minutes. The resulting precipitate was filtered, subjected to column chromatography of silica gel and, after eluting iodobenzene with pentane, the desired product was eluted with diethyl ether. Diethyl ether was distilled off from the eluate to obtain 2-pentafluoroethylthiopropionic acid as a colorless liquid. A sample of the product was purified by gas chromatography. Yield, 81%.

reactant | 2-mercaptopropionic acid | 0.68 mmol, 0.06 ml | SC(C(=O)O)C | C3H6O2S
reactant | 2,6-di-tert-butyl-4-methylpyridine | 0.68 mmol, 140 mg | C(C)(C)(C)C1=NC(=CC(=C1)C)C(C)(C)C | C14H23N
reactant | pentafluoroethylphenyliodonium trifluoromethanesulfonate | 0.68 mmol, 320 mg | FC(S(=O)(=O)[O-])(F)F.FC(C(F)(F)F)(F)[I+]C1=CC=CC=C1
solvent | methylene chloride | 2.0 ml | C(Cl)Cl | CH2Cl2
product | 2-pentafluoroethylthiopropionic acid | FC(C(F)(F)F)(C(C(=S)O)C)F | C5H5F5OS
